US05179090
b.) trans-2-Methyl-2,7-diazabicyclo[4.4.0]decane
A mixture of trans-2,7-diazabicyclo[4.4.0]decane (1.4 g, 10 mmoles), 37% aqueous formaldehyde solution (0.6 ml, 8 mmoles) and 0.5 g of palladium on charcoal (10%) was hydrogenated for 10 hours at 60° C. under a pressure of 3 to 4 bar. Hydrogenation under the conditions given above was continued after adding a further 0.3 ml of the 37% aqueous formaldehyde solution, the reaction mixture was then concentrated and digested with petrolether. The petrolether solution was concentrated under reduced pressure and the oily residue (1.2 g) was used for further reactions without further purification.

reactant | trans-2,7-diazabicyclo[4.4.0]decane | 10 mmoles, 1.4 g | [C@@H]12NCCC[C@@H]2NCCC1 | C8H16N2
reactant | formaldehyde | 8 mmoles, 0.6 ml | C=O | CH2O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | trans-2-Methyl-2,7-diazabicyclo[4.4.0]decane | CN1[C@@H]2CCCN[C@H]2CCC1 | C9H18N2
